US07419986B2
1-[(1-Benzhydryl-azetidin-3-yl)-methoxy-methyl]-5-fluoro-1H-indole
A solution of (1-benzhydryl-azetidin-3-yl)-acetaldehyde (0.30 g, 1.2 mmol), 5-fluoroindole (0.8 g, 6.0 mmol) and sodium hydroxide (0.6 g, 1.6 mmol) in methanol (20 mL) was refluxed for 6 hours. The reaction was quenched with water and extracted with methylene chloride (3×100 mL). The organic layer was washed with water (3×80 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The crude oil was column chromatographed on silica gel (30-40% ethyl acetate/hexane). The product-containing fractions were concentrated under vacuum to give 0.27 g (56%) of the title compound as a light yellow oil. 1H NMR (500 MHz, DMSO-D6): δ 2.62 (t, J=6.4 Hz, 1H), 2.90-2.95 (m, 2H), 3.02 (t, J=6.1 Hz, 1H), 3.09 (s, 3H), 3.26-3.31 (m, 1H), 4.40 (br, 1H), 4.58 (d, J=8.8 Hz, 1H), 6.89 (m, 1H), 7.13-7.18 (m, 2H), 7.22-7.27 (m, 4H), 7.31-7.39 (m, 7H) 11.10 (br, 1H).

reactant | (1-benzhydryl-azetidin-3-yl)-acetaldehyde | 1.2 mmol, 0.30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)CC=O | C18H19NO
reactant | 5-fluoroindole | 6.0 mmol, 0.8 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | sodium hydroxide | 1.6 mmol, 0.6 g | [OH-].[Na+]
reactant | methanol | 20 mL | CO | CH4O
product | 1-[(1-Benzhydryl-azetidin-3-yl)-methoxy-methyl]-5-fluoro-1H-indole | 0.27 g, 56% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(N1C=CC2=CC(=CC=C12)F)OC | C26H25FN2O
